US05073556
20 ml of dimethylformamide, followed by 4.97 g (0.026 mole) of 2,4,5-trifluoro-3-hydroxybenzoic acid [(XXIII), X=X'=F], were added in portions, whilst ice-cooling, to a solution of 2.18 g (0.052 mole) of sodium hydroxide in 5 ml of water. Thereafter the solution was stirred for 30 minutes, whilst ice-cooling. The reaction mixture was then transferred to a 200 ml stainless steel autoclave, and 100 ml of dimethylformamide containing 24.0 g (0.277 mole) of chlorodifluoromethane were added to it. The mixture was then stirred at between 100° and 110° C. for 5 hours under pressure. At the end of this time, the reaction mixture was poured into water and extracted with chloroform. The chloroform extracts were washed with water and dried over anhydrous sodium sulfate; the solvent was then removed by evaporation under reduced pressure. The residue was purified by column chromatography through silica gel using a 9:1 by volume mixture of ethyl acetate and ethanol as the eluent, to afford 2.00 g of 3-difluoromethoxy-2,4,5-trifluorobenzoic acid as a colorless powder.

reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | 2,4,5-trifluoro-3-hydroxybenzoic acid | 0.026 mole, 4.97 g | FC1=C(C(=O)O)C=C(C(=C1O)F)F | C7H3F3O3
reactant | sodium hydroxide | 0.052 mole, 2.18 g | [OH-].[Na+]
reactant | dimethylformamide | 0.277 mole, 100 ml, 24.0 g | CN(C=O)C | C3H7NO
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
solvent | water | 5 ml | O | H2O
product | 3-difluoromethoxy-2,4,5-trifluorobenzoic acid | 2.00 g | FC(OC=1C(=C(C(=O)O)C=C(C1F)F)F)F | C8H3F5O3
